US03954754
EXAMPLE 26: 6-(p-Ethoxybenzoyl)-3-hydrazino-5,6,7,8-tetrahydropyrido[4,3-c]pyridazine
11.1 g of 6-(p-ethoxybenzoyl)-3-chloro-5,6,7,8-tetrahydropyrido[4,3-c]pyridazine and 60 cc of hydrazine hydrate are stirred at a bath temperature of 100° for 1 hour and 40 minutes. The title compound has a M.P. of 171°-173° (decomp., from absolute ethanol).

reactant | 6-(p-ethoxybenzoyl)-3-chloro-5,6,7,8-tetrahydropyrido[4,3-c]pyridazine | 11.1 g | C(C)OC1=CC=C(C(=O)N2CC3=C(N=NC(=C3)Cl)CC2)C=C1 | C16H16ClN3O2
reactant | hydrazine hydrate | 60 cc | O.NN
product | 6-(p-Ethoxybenzoyl)-3-hydrazino-5,6,7,8-tetrahydropyrido[4,3-c]pyridazine | C(C)OC1=CC=C(C(=O)N2CC3=C(N=NC(=C3)NN)CC2)C=C1 | C16H19N5O2
